2132-12-01 06:08:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:
   HPI:
   24 Hour Events:
   Allergies:
   Penicillins
   Rash;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Meperidine
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Lidocaine - 1 mg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-12-1**] 06:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.7
C (96.2
   HR: 85 (85 - 89) bpm
   BP: 91/57(65) {88/51(61) - 136/70(79)} mmHg
   RR: 22 (15 - 24) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Height: 70 Inch
             Total In:
                                                                  1,854 mL
                                                                    313 mL
   PO:
                                                                    160 mL
             TF:
   IVF:
                                                                    394 mL
                                                                    313 mL
   Blood products:
   Total out:
                                                                    750 mL
                                                                    275 mL
   Urine:
                                                                    500 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,104 mL
                                                                     38 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   GENERAL: Affable male in NAD. Oriented x3. Mood, affect appropriate.
   Flush in the face.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of [**4-15**] cm.
   CARDIAC: PMI laterally displaced. RR with occasional PVCs, normal S1,
   with paradoxially split S2. No m/r. No thrills, lifts. ? + S3 in LLDP
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: 1+ posterior ankle edema, trace pre-tibeal edema.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Labs / Radiology
   12.2 g/dL
   172 K/uL
   94 mg/dL
   2.5 mg/dL
   28 mEq/L
   7.0 mEq/L
   65 mg/dL
   104 mEq/L
   139 mEq/L
   35.0 %
   5.2 K/uL
        [image002.jpg]
                            [**2132-12-1**]  04:42 AM
   WBC
   5.2
   Hct
   35.0
   Plt
   172
   Cr
   2.5
   Glucose
   94
   Other labs: Ca++:9.1 mg/dL, Mg++:2.3 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   82 y/o male w/ a hx of non-ischemic CM (EF 15%) s/p CRT/D, CAF s/p AV
   ablation, VT s/p ablation, p/w VT w/ multiple ICD firings.
   # CORONARIES:  The patient has no history of CAD with clean coronaries
   on cath [**2-16**].
   .
   # PUMP:  Patient with known non-ischemic cardiomyopathy with an EF of
   15%.  Patient with recent heart failure exacerbation, with described
   improvement of symptoms from increased diuresis.  Currently with mild
   LE edema and JVP at 6cm.  Creatinine inceased from 1.5 baseline to 2.6,
   which may be the product of over diuresis.
   - hold home [**Last Name (un) **] in the setting of ARF
   - cont home BB
   - dig level supra-therapeutic, will hold for now, and re-dose renally
   once level improved
   - will consider starting spironolactone, which may benefit him re: VT
   by bolstering potassium levels
   - holding lasix for now
   - TEDs
   .
   # RHYTHM: Patient with history of VT, s/p ablation.  Patient had been
   treated with increasing diuresis for HF exacerbation.  Has been on
   amioderone.  Over last week, has had increasing frequency of ICD
   firings with VT storm over last 24 hrs, with unstable VT in the ED
   requiring DCCV with exernal pads.  Currently in AF with V-paced rhythm.
   - cont amio at 1mg/kg for 6hrs, then reduce to 0.5mg/kg
   - cont lidocaine at 1mg/kg
   - replete lyts PRN
   - keep DCCV pads on incase unstable reoccurance
   - NPO for now
   - D/W EP regarding possible EP study and repeat VT ablation tomorrow.
   Wonder if candiate for epicardial mappping.
   - holding coumadin for AF, and will start heparin once INR becomes less
   than 2.0.
   - check TSH
   .
   # ARF:  Creatinine up from 1.6 to 2.6 in the setting of diuresis for
   HF.
   - hold further diuresis
   - send urine lytes and UA
   - avoid nephrotoxic meds
   - holding [**Last Name (un) **]
   .
   # Hypertrigliceridemia:
   - cont home fibrate
   .
   # Glaucoma:
   - cont Latanoprost and Brimonidine gtts
   FEN:  NPO
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with systemic anticoagulation
   -Bowel regimen
   CODE: Full
   DISPO: CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2132-11-30**] 03:35 PM
   20 Gauge - [**2132-11-30**] 03:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2132-12-01 06:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 82 y/o male w/ a hx of non-ischemic CM (EF 15%) s/p
   CRT/D, CAF s/p AV ablation, VT s/p ablation, p/w VT w/ multiple ICD
   firings.
   24 Hour Events:  No events on telemetry.  Pt reports 1 episode of
   feeling lightheaded and thought ICD was going to fire at 2am this
   morning.  No events on telemetry at this time.
   Denies CP, SOB, N/V, fever, chills, night sweats.
   Allergies:
   Penicillins
   Rash;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Meperidine
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Lidocaine - 1 mg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-12-1**] 06:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.7
C (96.2
   HR: 85 (85 - 89) bpm
   BP: 91/57(65) {88/51(61) - 136/70(79)} mmHg
   RR: 22 (15 - 24) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Height: 70 Inch
             Total In:
                                                                  1,854 mL
                                                                    313 mL
   PO:
                                                                    160 mL
             TF:
   IVF:
                                                                    394 mL
                                                                    313 mL
   Blood products:
   Total out:
                                                                    750 mL
                                                                    275 mL
   Urine:
                                                                    500 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,104 mL
                                                                     38 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   GENERAL: Affable male in NAD. Oriented x3. Mood, affect appropriate.
   Flush in the face.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of 10 cm.
   CARDIAC: PMI laterally displaced. RR with occasional PVCs, normal S1,
   S2. No murmurs or rubs appreciated.  +S3 at apex.
   LUNGS: CTAB, no crackles, wheezes or rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominal bruits.
   EXTREMITIES: 1+ posterior ankle edema, trace pre-tibial edema.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:  2+ PD and DP
   Labs / Radiology
   12.2 g/dL
   172 K/uL
   94 mg/dL
   2.5 mg/dL
   28 mEq/L
   7.0 mEq/L
   65 mg/dL
   104 mEq/L
   139 mEq/L
   35.0 %
   5.2 K/uL
        [image002.jpg]
   Repeat K = 4.3 (previously hemolyzed)
   INR 2.0
   TSH 10
                            [**2132-12-1**]  04:42 AM
   WBC
   5.2
   Hct
   35.0
   Plt
   172
   Cr
   2.5
   Glucose
   94
   Other labs: Ca++:9.1 mg/dL, Mg++:2.3 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   82 y/o male w/ a hx of non-ischemic CM (EF 15%) s/p CRT/D, CAF s/p AV
   ablation, VT s/p ablation, p/w VT w/ multiple ICD firings.
   # CORONARIES:  The patient has no history of CAD with clean coronaries
   on cath [**2-16**].
   .
   # PUMP:  Patient with known non-ischemic cardiomyopathy with an EF of
   15%.  Patient with recent heart failure exacerbation, with described
   improvement of symptoms from increased diuresis.  Currently with mild
   LE edema and JVP at 10cm.  Creatinine increased from 1.5 baseline to
   2.6.  Clinically in failure and will be receiving IV fluids today with
   VT ablation study.
   - Lasix 60mg IV X 1 this AM; will likely need more in the EP lab today
   - hold home [**Last Name (un) **] in the setting of ARF
   - cont home BB
   - continue to hold digoxin
   - will consider starting spironolactone for heart failure
   .
   # RHYTHM: Currently in Afib with V-paced rhythm.  On Amio IV and
   Lidocaine without events last night and was stopped this morning.
   Hemodynamically stable.  TSH at 10 likely from acute illness.  Pt is
   not hyperthyroid which could contribute to VT.
   - keep DCCV pads on incase unstable recurrence
   - EP study and repeat VT ablation today
   - will need ICD battery change during  this admission as well, deferred
   until after EP study
   - holding coumadin for procedure
   .
   # ARF:  Creatinine up from 1.6 to 2.6 in the setting of diuresis for
   HF.  Sending urine lytes and UA.
   - avoid nephrotoxic meds
   - holding [**Last Name (un) **]
   .
   # Hypertrigliceridemia:
   - cont home fibrate
   .
   # Glaucoma:
   - cont Latanoprost and Brimonidine gtts
   FEN:  NPO for procedure
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with systemic anticoagulation
   -Bowel regimen
   CODE: Full
   DISPO: CCU

2132-12-02 06:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  ICD firing
   24 Hour Events:
   No areas of dense endocardial scar. RF ablation lesions created from
   the mitral annulus to an area of low voltage in the basal,
   posterolateral wall which was a site of a good pacemap for the clinical
   VT. Ablation at this site terminated the VT, but it still recurred
   severaltimes despite multiple ablations. Several lesions were made from
   this site to create a line to the mitral annulus.  Multiple morphology
   LBBB VTs which most likely have an automatic or triggered mechanism.
   Given this, no further VT ablation planned.  Pt was continued on
   Amiodarone, started on Mexiletine 150 TID per EP.  Warfarin was also
   restarted.
   Had hypotension to high 70s intermittently, pt. asymptomatic, w/
   rebound to 90s (baseline 100s systolic).  Per EP, continued w/
   metoprolol.  ARF on CKD, holding [**Last Name (un) **], FEUrea 43%, UA neg.  Pt. is
   planned for generator change in AM, thus is NPO past MN.
   Allergies:
   Penicillins
   Rash;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Meperidine
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2132-12-1**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-12-2**] 05:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.3
C (97.4
   HR: 85 (84 - 88) bpm
   BP: 86/55(62) {76/34(48) - 107/68(76)} mmHg
   RR: 19 (16 - 25) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
   Height: 70 Inch
   Telemetry
   Total In:
                                                                  3,085 mL
                  PO:
                                                                    400 mL
                  TF:
   IVF:
                                                                  2,685 mL
   Blood products:
   Total out:
                                                                  1,950 mL
                                                                    300 mL
   Urine:
                                                                  1,500 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,135 mL
                                                                   -300 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   GENERAL: Affable male in NAD. Oriented x3. Mood, affect appropriate.
   Flush in the face.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of 10 cm.
   CARDIAC: PMI laterally displaced. RR with occasional PVCs, normal S1,
   S2. No murmurs or rubs appreciated.  +S3 at apex.
   LUNGS: CTAB, no crackles, wheezes or rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominal bruits.
   EXTREMITIES: 1+ posterior ankle edema, trace pre-tibial edema.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:  2+ PD and DP
   Labs / Radiology
   174 K/uL
   12.5 g/dL
   114 mg/dL
   2.8 mg/dL
   27 mEq/L
   4.3 mEq/L
   71 mg/dL
   106 mEq/L
   143 mEq/L
   37.0 %
   6.1 K/uL
        [image002.jpg]
                            [**2132-12-1**]  04:42 AM
                            [**2132-12-1**]  06:44 AM
                            [**2132-12-1**]  04:15 PM
                            [**2132-12-2**]  12:45 AM
                            [**2132-12-2**]  04:16 AM
   WBC
   5.2
   5.5
   6.1
   Hct
   35.0
   38.7
   35.2
   37.0
   Plt
   172
   177
   174
   Cr
   2.5
   2.5
   2.3
   2.8
   Glucose
   94
   83
   80
   114
   Other labs: PT / PTT / INR:23.9/27.0/2.3,
    Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   82 y/o male w/ a hx of non-ischemic CM (EF 15%) s/p CRT/D, CAF s/p AV
   ablation, VT s/p ablation, p/w VT w/ multiple ICD firings.
   # CORONARIES:  The patient has no history of CAD with clean coronaries
   on cath [**2-16**].
   .
   # PUMP:  Patient with known non-ischemic cardiomyopathy with an EF of
   15%.  Patient with recent heart failure exacerbation, with described
   improvement of symptoms from increased diuresis.  Currently with mild
   LE edema and JVP at 10cm.  Creatinine increased from 1.5 baseline to
   2.8
   - Lasix 60mg IV X 1 this AM, with goal of [**12-12**] L negative
   - hold home [**Last Name (un) **] in the setting of ARF
   - cont home BB
   - digoxin was held on admission, with suprathearpeutic levels and VT,
   continue to hold
   - will consider starting spironolactone for heart failure on discharge
   .
   # RHYTHM: Currently in Afib with V-paced rhythm.  Attempt at VT
   ablation yesterday, but unclear if presenting VT adequately targeted.
   No current plants for epicardial mapping/ablation.  Patient on
   mexilitine and amiodarone.
   - keep DCCV pads on incase unstable recurrence
   - Planned  ICD battery change today
   - holding coumadin for planned battery change
   .
   # ARF:  Creatinine up from 1.6 to 2.8, with worsening Cr with excess
   fluid in HF setting.
   - continue diuresisi
   - avoid nephrotoxic meds
   - holding [**Last Name (un) **]
   .
   # Hypertrigliceridemia:
   - cont home fibrate
   .
   # Glaucoma:
   - cont Latanoprost and Brimonidine gtts
   FEN:  NPO for procedure
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with systemic anticoagulation
   -Bowel regimen
   CODE: Full
   DISPO: CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2132-11-30**] 03:35 PM
   20 Gauge - [**2132-11-30**] 03:35 PM
   Prophylaxis:
   DVT: on systemic anticoagulation
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2132-12-03 06:47:00 Physician Resident Progress Note
Chief Complaint: - s/p pacemaker generator change, brief episode of
   hypotension post-procedure requiring pressors
   - levofloxacin started for ppx of skin infections
   - pt awoke approx 3am with sensation in his chest similar to an ICD
   discharge. No events on telemetry
   - poor response to 60mg IV lasix
   - further diuresis limited by borderliine SBPs in 80s.
   24 Hour Events:
 CARDIAC CATH - At [**2132-12-2**] 08:00 AM
   ICD generator change
 STOOL CULTURE - At [**2132-12-2**] 06:46 PM
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Rash;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Meperidine
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2132-12-2**] 06:45 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2132-12-2**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-12-3**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36
C (96.8
   HR: 70 (70 - 86) bpm
   BP: 82/53(59) {75/42(50) - 105/67(74)} mmHg
   RR: 23 (18 - 25) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
   Height: 70 Inch
                  Total In:
                                                                    680 mL
                                                                    240 mL
   PO:
                                                                    480 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    200 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    350 mL
   Urine:
                                                                  1,000 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -320 mL
                                                                   -110 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Eyes / Conjunctiva:  Annasacoria of left eye
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal) + S3
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , No(t) Crackles : , No(t)
   Wheezes : ), pocket site without hematoma or exudate
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   174 K/uL
   12.5 g/dL
   139 mg/dL
   3.0 mg/dL
   25 mEq/L
   4.3 mEq/L
   79 mg/dL
   107 mEq/L
   143 mEq/L
   37.0 %
   6.1 K/uL
        [image002.jpg]
                            [**2132-12-1**]  04:42 AM
                            [**2132-12-1**]  06:44 AM
                            [**2132-12-1**]  04:15 PM
                            [**2132-12-2**]  12:45 AM
                            [**2132-12-2**]  04:16 AM
                            [**2132-12-2**]  06:31 PM
   WBC
   5.2
   5.5
   6.1
   Hct
   35.0
   38.7
   35.2
   37.0
   Plt
   172
   177
   174
   Cr
   2.5
   2.5
   2.3
   2.8
   3.0
   Glucose
   94
   83
   80
   114
   139
   Other labs: PT / PTT / INR:23.9/27.0/2.3, Ca++:9.0 mg/dL, Mg++:2.0
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   82 y/o male w/ a hx of non-ischemic CM (EF 15%) s/p CRT/D, CAF s/p AV
   ablation, VT s/p ablation, p/w VT w/ multiple ICD firings.
   # CORONARIES:  The patient has no history of CAD with clean coronaries
   on cath [**2-16**].
   .
   # PUMP:  Patient with known non-ischemic cardiomyopathy with an EF of
   15%.  Patient with recent heart failure exacerbation, with described
   improvement of symptoms from increased diuresis.  Currently with mild
   LE edema and JVP at 12cm and + S3.  However, no prominent LE edema and
   oxygenating well.  Likely systolic heart failure with increased venous
   constriction.  Creatinine increased from 1.5 baseline to 3.0.
   Clinically in failure and s/p IV fluids w/ VT ablation study. SBPs
   borderline, limiting more aggressive diuresis.   Cautious of further
   diuresis w/ risk of electrolyte shifts causing further VT.
   - will c/s renal to discuss role of plasmaphoresis
   - will also c/s heart failure service to see recommendations on
   adequate goal of diuresis in this patient
   - hold home [**Last Name (un) **] in the setting of ARF
   - cont home BB
   - continue to hold digoxin
   - will consider starting spironolactone for heart failure
   .
   # RHYTHM: Currently in Afib with V-paced rhythm.  On Amio IV and
   Lidocaine initially, then transitioned to po amio and mexiletine.
   Hemodynamically stable.  TSH at 10 likely from acute illness.  Pt is
   not hyperthyroid which could contribute to VT.
   - keep DCCV pads on incase unstable recurrence
   - EP study and repeat VT ablation [**12-1**]
   - s/p ICD battery change [**12-2**]
   - levoflox po x 7 days for ppx
   - holding coumadin for procedure - restart today
   .
   # ARF:  Creatinine up from 2.6 to 3.0 today.  No evidence of ATN on UA
   prior from hypotensive episodes.  Likely [**1-12**] to poor forward flow in
   this patient with acute on chronic systolic heart failure.  Urine lytes
   indeterminate, and patients Cr has risen with + fluid for LOS.
   - c/s renal to discuss role of plasmaphoresis and assessment of
   etiology of ARF
   - avoid nephrotoxic meds
   - holding [**Last Name (un) **]
   .
   # Hypertrigliceridemia:
   - cont home fibrate
   .
   # Glaucoma:
   - cont Latanoprost and Brimonidine gtts
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2132-11-30**] 03:35 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor

2132-12-04 06:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Patients blood pressures remained adequate throughout the day.  His
   toprol was switched to carvedilol and amioderone was decreased to 200mg
   daily.  Renal was consulted, who felt that patients acute on chronic
   renal failure secondary to CHF with a question of mild ATN.  Feel that
   Cr of 1.6 from 6 months ago likely no longer patients baseline, with
   progressive worsening secondary to HF.  Did not see any indicaiton for
   dialsyis currently, ad recommended gentle diuresis.  Heart Failure
   service was consulted.  Dr. [**First Name (STitle) **] did not feel that patient to be
   signifcantly overloaded, and recommend more maintenence diuresis with
   40mg of torosemide.  A TTE was obtained which showed elevated PCWG and
   moderate RV dilitation with 2+ TR.  Even with these results, Dr. [**First Name (STitle) **]
   afraid that aggressively diuresing him with a Lasix drip will result in
   further renal deterioration.  If we feel that patient is wet, then
   heart failure service would recommend milrinone plus Lasix gtt.  INR
   continues to rise, despite no coumadin dosin, and continues to be held.
   Allergies:
   Penicillins
   Rash;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Meperidine
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2132-12-2**] 06:45 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-12-4**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.4
   HR: 70 (70 - 70) bpm
   BP: 98/61(69) {84/43(22) - 120/72(80)} mmHg
   RR: 20 (10 - 29) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
   Height: 70 Inch
                  Total In:
                                                                  1,450 mL
                  PO:
                                                                  1,450 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,450 mL
                                                                    250 mL
   Urine:
                                                                  1,450 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -250 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   GENERAL: Affable male in NAD. Oriented x3. Mood, affect appropriate.
   Flush in the face.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of [**4-15**] cm.
   CARDIAC: PMI laterally displaced. RR with occasional PVCs, normal S1,
   with paradoxially split S2. No m/r. No thrills, lifts.  + S3 in LLDP
   and subxiphoid
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: 1+ posterior ankle edema, trace pre-tibeal edema.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   149 K/uL
   11.7 g/dL
   133 mg/dL
   2.9 mg/dL
   25 mEq/L
   4.3 mEq/L
   87 mg/dL
   103 mEq/L
   140 mEq/L
   34.8 %
   6.9 K/uL
        [image002.jpg]
                            [**2132-12-1**]  04:42 AM
                            [**2132-12-1**]  06:44 AM
                            [**2132-12-1**]  04:15 PM
                            [**2132-12-2**]  12:45 AM
                            [**2132-12-2**]  04:16 AM
                            [**2132-12-2**]  06:31 PM
                            [**2132-12-3**]  06:08 AM
                            [**2132-12-3**]  05:44 PM
   WBC
   5.2
   5.5
   6.1
   6.9
   Hct
   35.0
   38.7
   35.2
   37.0
   34.8
   Plt
   172
   177
   174
   149
   Cr
   2.5
   2.5
   2.3
   2.8
   3.0
   3.0
   2.9
   Glucose
   94
   83
   80
   114
   139
   106
   133
   Other labs: PT / PTT / INR:31.8/29.4/3.3, Ca++:9.0 mg/dL, Mg++:2.1
   mg/dL, PO4:3.5 mg/dL
   Imaging: TTE: The left atrium is elongated. There is mild symmetric
   left ventricular hypertrophy. The left ventricular cavity is moderately
   dilated. No masses or thrombi are seen in the left ventricle. Overall
   left ventricular systolic function is severely depressed (LVEF= 15-20
   %) with global hypokinesis and akinesis to dyskinesis of th inferior
   and infero-lateral walls. Tissue Doppler imaging suggests an increased
   left ventricular filling pressure (PCWP>18mmHg). There is no
   ventricular septal defect. The right ventricular cavity is moderately
   dilated with moderate global free wall hypokinesis. The ascending aorta
   is mildly dilated. The aortic valve leaflets (3) are mildly thickened
   but aortic stenosis is not present. The mitral valve leaflets are
   mildly thickened. Moderate (2+) mitral regurgitation is seen. The left
   ventricular inflow pattern suggests a restrictive filling abnormality,
   with elevated left atrial pressure. The tricuspid valve leaflets are
   mildly thickened. Moderate [2+] tricuspid regurgitation is seen. There
   is moderate pulmonary artery systolic hypertension. There is no
   pericardial effusion.
   Assessment and Plan
   82 y/o male w/ a hx of non-ischemic CM (EF 15%) s/p CRT/D, CAF s/p AV
   ablation, VT s/p ablation, p/w VT w/ multiple ICD firings.
   # CORONARIES:  The patient has no history of CAD with clean coronaries
   on cath [**2-16**].
   .
   # PUMP:  Patient with known non-ischemic cardiomyopathy with an EF of
   15%.  Patient with recent heart failure exacerbation, with described
   improvement of symptoms from increased diuresis.  Currently with JVP at
   12cm and + S3.  However, no prominent LE edema and oxygenating well.
   Likely systolic heart failure with increased venous constriction.
   Creatinine baseline unclear (none in our system since [**2-9**].5).
   Clinically in failure and s/p IV fluids w/ VT ablation study. SBPs
   borderline, limiting more aggressive diuresis. Appreciate renal and
   heart failure (Dr. [**First Name (STitle) **]
s) recs. Pt would benefit from improved
   cardiac output and consequent increased forward flow to kidneys.
   - start dopamine drip at 5/hr with conservative lasix drip
   - place PICC
   - Goal negative 1L
   - hold home [**Last Name (un) **] in the setting of ARF
   - cont. carvedilol (started [**12-3**])
   - continue to hold digoxin
   - continue to hold spironolactone
   .
   # RHYTHM: Currently in Afib with V-paced rhythm.  On Amio IV and
   Lidocaine initially, then transitioned to po amio and mexiletine.
   Hemodynamically stable.  TSH at 10 likely from acute illness.  Pt is
   not hyperthyroid which could contribute to VT.
   - cont. carvedilol and mexiletine, holding digoxin
   - keep DCCV pads on incase unstable recurrence
   - EP study and repeat VT ablation [**12-1**]
   - s/p ICD battery change [**12-2**]
   - levoflox po x 7 days for ppx
   - holding coumadin as INR supratherapeutic
   .
   # ARF:  No evidence of ATN on UA prior from hypotensive episodes.
   Likely [**1-12**] to poor forward flow in this patient with acute on chronic
   systolic heart failure.  Urine lytes indeterminate, and patients Cr has
   risen with + fluid for LOS. Creatinine has stabilized approx 3.
   - appreciate renal recs
   - dopamine drip as above and cautious diuresis
   - avoid nephrotoxic meds
   - holding [**Last Name (un) **]
   .
   # Hypertrigliceridemia:
   - cont home fibrate
   .
   # Glaucoma:
   - cont Latanoprost and Brimonidine gtts
   ICU Care
   Nutrition:
   Comments: Low Salt Diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-12-3**] 11:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2132-12-05 05:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Renal saw patient- no new recs other than felt augmenting systolic BP
   with dopamine or milrinone would be helpful for kidney function.  Given
   INR 3.9 pt did not get PICC and decision made to forego dopamine/lasix
   gtt and see where patient settles out on his own.  Torsemide restarted
   Allergies:
   Penicillins
   Rash;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Meperidine
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2132-12-2**] 06:45 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-12-5**] 05:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.8
C (96.4
   HR: 70 (70 - 70) bpm
   BP: 99/62(69) {87/49(61) - 112/70(79)} mmHg
   RR: 22 (16 - 23) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
   Height: 70 Inch
                  Total In:
                                                                    720 mL
                                                                    120 mL
   PO:
                                                                    720 mL
                                                                    120 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,150 mL
                                                                    475 mL
   Urine:
                                                                  1,150 mL
                                                                    475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -430 mL
                                                                   -355 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   GENERAL: Affable male in NAD. Oriented x3. Mood, affect appropriate.
   Flush in the face.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of 12.
   CARDIAC: PMI laterally displaced. RR with occasional PVCs, normal S1,
   with paradoxially split S2. No m/r. No thrills, lifts. ? + S3 in LLDP
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: 1+ posterior ankle edema, trace pre-tibeal edema.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   133 K/uL
   11.5 g/dL
   99 mg/dL
   2.8 mg/dL
   24 mEq/L
   4.0 mEq/L
   88 mg/dL
   104 mEq/L
   140 mEq/L
   33.9 %
   5.9 K/uL
        [image002.jpg]
                            [**2132-12-1**]  04:42 AM
                            [**2132-12-1**]  06:44 AM
                            [**2132-12-1**]  04:15 PM
                            [**2132-12-2**]  12:45 AM
                            [**2132-12-2**]  04:16 AM
                            [**2132-12-2**]  06:31 PM
                            [**2132-12-3**]  06:08 AM
                            [**2132-12-3**]  05:44 PM
                            [**2132-12-4**]  06:24 AM
   WBC
   5.2
   5.5
   6.1
   6.9
   5.9
   Hct
   35.0
   38.7
   35.2
   37.0
   34.8
   33.9
   Plt
   172
   177
   174
   149
   133
   Cr
   2.5
   2.5
   2.3
   2.8
   3.0
   3.0
   2.9
   2.8
   Glucose
   94
   83
   80
   114
   139
   106
   133
   99
   Other labs: PT / PTT / INR:36.7/32.1/3.9, Ca++:8.8 mg/dL, Mg++:2.1
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   82 y/o male w/ a hx of non-ischemic CM (EF 15%) s/p CRT/D, CAF s/p AV
   ablation, VT s/p ablation, p/w VT w/ multiple ICD firings.
    # CORONARIES:  The patient has no history of CAD with clean coronaries
   on cath [**2-16**].
   .
   # PUMP:  Patient with known non-ischemic cardiomyopathy with an EF of
   15%.  Patient with recent heart failure exacerbation, with described
   improvement of symptoms from increased diuresis.  Currently with JVP at
   12cm and + S3.  However, no prominent LE edema and oxygenating well.
   Likely systolic heart failure with increased venous constriction.
   Creatinine baseline unclear (none in our system since [**2-9**].5).
   Clinically in failure and s/p IV fluids w/ VT ablation study. SBPs
   borderline, limiting more aggressive diuresis. Appreciate renal and
   heart failure (Dr. [**First Name (STitle) **]
s) recs. Pt would benefit from improved
   cardiac output and consequent increased forward flow to kidneys.
   - start milrinone gtt (reduced renal dose).
   - continue torsemide 40mg po bid
   - Goal negative 1L
   - hold home [**Last Name (un) **] in the setting of ARF
   - cont. carvedilol (started [**12-3**]), uptitrate as BP allows
   - continue to hold digoxin
   - continue to hold spironolactone
   # RHYTHM: Currently in Afib with V-paced rhythm.  On Amio IV and
   Lidocaine initially, then transitioned to po amio and mexiletine.
   Hemodynamically stable.  TSH at 10 likely from acute illness.  Pt is
   not hyperthyroid which could contribute to VT.  s/p EP study and repeat
   VT ablation [**12-1**], s/p ICD battery change [**12-2**]
   - cont. carvedilol and mexiletine, holding digoxin
   - keep DCCV pads on in case unstable recurrence
   - levoflox po x 7 days for ppx (day 1 = [**12-2**])
   - will hold Coumadin tonight, likely restart tomorrow
   # ARF:  No evidence of ATN on UA prior from hypotensive episodes.
   Likely [**1-12**] to poor forward flow in this patient with acute on chronic
   systolic heart failure.  Urine lytes indeterminate, and patients Cr has
   risen with + fluid for LOS. Creatinine has stabilized approx 3.
   - appreciate renal recs
   - trial of milrinone today and cautious diuresis
   - avoid nephrotoxic meds
   - holding [**Last Name (un) **]
   # Hypertrigliceridemia:
   - cont home fibrate
   .
   # Glaucoma:
   - cont Latanoprost and Brimonidine gtts
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-12-3**] 11:00 AM
   Prophylaxis:
   DVT:  therapeutic INR
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2132-12-06 06:10:00 Physician Resident Progress Note
Chief Complaint: VT, heart failure, acute on chronic renal failure
   24 Hour Events:
   - Started on milrinone 0.33/mcg/hr, continued on po torsemide
   - Carvedilol changed back to metoprolol 12.5mg po bid given BP drop
   after carvedilol
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Rash;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Meperidine
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Milrinone - 0.33 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea
   Genitourinary: No(t) Dysuria
   Psychiatric / Sleep: No(t) Agitated
   Flowsheet Data as of  [**2132-12-6**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.1
C (97
   HR: 70 (69 - 71) bpm
   BP: 111/59(71) {83/38(53) - 117/67(77)} mmHg
   RR: 18 (16 - 24) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
   Wgt (current): 68.2 kg (admission): 67.5 kg
   Height: 70 Inch
             Total In:
                                                                  1,467 mL
                                                                    160 mL
   PO:
                                                                  1,380 mL
                                                                    120 mL
   TF:
   IVF:
                                                                     87 mL
                                                                     40 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                    450 mL
   Urine:
                                                                  1,900 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -433 mL
                                                                   -290 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), JVP =
   12
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, place, time, Movement: Purposeful,
   Tone: Not assessed
   Labs / Radiology
   141 K/uL
   11.5 g/dL
   137 mg/dL
   2.4 mg/dL
   22 mEq/L
   4.1 mEq/L
   76 mg/dL
   107 mEq/L
   140 mEq/L
   33.6 %
   6.0 K/uL
        [image002.jpg]
                            [**2132-12-1**]  04:15 PM
                            [**2132-12-2**]  12:45 AM
                            [**2132-12-2**]  04:16 AM
                            [**2132-12-2**]  06:31 PM
                            [**2132-12-3**]  06:08 AM
                            [**2132-12-3**]  05:44 PM
                            [**2132-12-4**]  06:24 AM
                            [**2132-12-5**]  05:57 AM
                            [**2132-12-5**]  08:28 PM
                            [**2132-12-6**]  04:55 AM
   WBC
   6.1
   6.9
   5.9
   6.0
   Hct
   35.2
   37.0
   34.8
   33.9
   33.6
   Plt
   174
   149
   133
   141
   Cr
   2.3
   2.8
   3.0
   3.0
   2.9
   2.8
   2.8
   2.8
   2.4
   Glucose
   80
   114
   139
   106
   133
   99
   88
   217
   137
   Other labs: PT / PTT / INR:25.3/28.6/2.5, Ca++:7.9 mg/dL, Mg++:2.0
   mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   82 y/o male w/ a hx of non-ischemic CM (EF 15%) s/p CRT/D, CAF s/p AV
   ablation, VT s/p ablation, p/w VT w/ multiple ICD firings.
   # CORONARIES:  The patient has no history of CAD with clean coronaries
   on cath [**2-16**].
   .
   # PUMP:  Patient with known non-ischemic cardiomyopathy with an EF of
   15%.  Patient with recent heart failure exacerbation, with described
   improvement of symptoms from increased diuresis.  Currently with JVP at
   12cm and + S3.  However, no prominent LE edema and oxygenating well.
   Likely systolic heart failure with increased venous constriction.
   Creatinine baseline unclear (none in our system since [**2-9**].5).
   Clinically in failure and s/p IV fluids w/ VT ablation study. SBPs
   borderline, limiting more aggressive diuresis. Appreciate renal and
   heart failure (Dr. [**First Name (STitle) **]
s) recs. Pt would benefit from improved
   cardiac output and consequent increased forward flow to kidneys.
   Creatinine down to 2.4 with milrinone yesterday, pt feels well
   - cont. milrinone gtt (reduced renal dose).
   - continue torsemide 40mg po bid
   - Goal negative 1L
   - hold home [**Last Name (un) **] in the setting of ARF
   - cont. carvedilol (started [**12-3**]), uptitrate as BP allows
   - digoxin discontinued
   - continue to hold spironolactone
   # RHYTHM: Currently in Afib with V-paced rhythm.  On Amio IV and
   Lidocaine initially, then transitioned to po amio and mexiletine.
   Hemodynamically stable.  TSH at 10 likely from acute illness.  Pt is
   not hyperthyroid which could contribute to VT.  s/p EP study and repeat
   VT ablation [**12-1**], s/p ICD battery change [**12-2**]
   - cont.  mexiletine and po amio, holding digoxin
   - increase metoprolol to 25mg po bid
   - keep DCCV pads on in case unstable recurrence
   - levoflox po x 7 days for ppx (day 1 = [**12-2**])
   - may restart Coumadin tonight, pending INR
   # ARF:  No evidence of ATN on UA prior from hypotensive episodes.
   Likely [**1-12**] to poor forward flow in this patient with acute on chronic
   systolic heart failure.  Urine lytes indeterminate, and patients Cr has
   risen with + fluid for LOS. Creatinine has decreased on milrinone.
   - appreciate renal recs
   - cont. milrinone today with torsemide po
   - avoid nephrotoxic meds
   - holding [**Last Name (un) **]
   # Hypertrigliceridemia:
   - cont home fibrate
   .
   # Glaucoma:
   - cont Latanoprost and Brimonidine gtts
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2132-12-5**] 11:04 AM
   20 Gauge - [**2132-12-5**] 09:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2132-12-07 06:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -- Patient with increased ectopy day prior, so metoprolol was increased
   while on milirinone
   -- INR had fallen below 2, so coumadin restarted at home dose
   -- Had been running - 300cc throughout the day, but ended up being even
   -- Increased stooling, not particularly loose by report, sending for
   c.diff
   -- Dr. [**First Name (STitle) **] had no new reccomendations
   Allergies:
   Penicillins
   Rash;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Meperidine
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Milrinone - 0.38 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-12-7**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.8
   HR: 70 (70 - 71) bpm
   BP: 100/43(58) {69/28(40) - 126/88(110)} mmHg
   RR: 21 (15 - 25) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
   Wgt (current): 68.2 kg (admission): 67.5 kg
   Height: 70 Inch
             Total In:
                                                                  1,358 mL
                                                                    112 mL
   PO:
                                                                  1,180 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    178 mL
                                                                     52 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    300 mL
   Urine:
                                                                  1,350 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      8 mL
                                                                   -188 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   GENERAL: Affable male in NAD. Oriented x3. Mood, affect appropriate.
   Flush in the face.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of [**4-15**] cm.
   CARDIAC: PMI laterally displaced. RR with occasional PVCs, normal S1,
   with paradoxially split S2. No m/r. No thrills, lifts. ? + S3 in LLDP
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: 1+ posterior ankle edema, trace pre-tibeal edema.
   Labs / Radiology
   166 K/uL
   10.9 g/dL
   101 mg/dL
   2.5 mg/dL
   24 mEq/L
   4.4 mEq/L
   80 mg/dL
   105 mEq/L
   139 mEq/L
   31.7 %
   6.3 K/uL
        [image002.jpg]
                            [**2132-12-2**]  06:31 PM
                            [**2132-12-3**]  06:08 AM
                            [**2132-12-3**]  05:44 PM
                            [**2132-12-4**]  06:24 AM
                            [**2132-12-5**]  05:57 AM
                            [**2132-12-5**]  08:28 PM
                            [**2132-12-6**]  04:55 AM
                            [**2132-12-6**]  06:15 AM
                            [**2132-12-6**]  04:26 PM
                            [**2132-12-7**]  03:29 AM
   WBC
   6.9
   5.9
   6.0
   5.1
   6.3
   Hct
   34.8
   33.9
   33.6
   27.9
   31.8
   31.7
   Plt
   149
   133
   141
   132
   166
   Cr
   3.0
   3.0
   2.9
   2.8
   2.8
   2.8
   2.4
   2.5
   2.5
   Glucose
   139
   106
   133
   99
   88
   [**Telephone/Fax (3) 4655**]01
   Other labs: PT / PTT / INR:18.5/26.3/1.7, Ca++:7.9 mg/dL, Mg++:2.2
   mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   82 y/o male w/ a hx of non-ischemic CM (EF 15%) s/p CRT/D, CAF s/p AV
   ablation, VT s/p ablation, p/w VT w/ multiple ICD firings.
   # CORONARIES:  The patient has no history of CAD with clean coronaries
   on cath [**2-16**].
   .
   # PUMP:  Patient with known non-ischemic cardiomyopathy with an EF of
   15%.  Patient with recent heart failure exacerbation, with described
   improvement of symptoms from increased diuresis.  Currently with JVP at
   12cm and + S3.  However, no prominent LE edema and oxygenating well.
   Likely systolic heart failure with increased venous constriction.
   Creatinine baseline unclear (none in our system since [**2-9**].5).
   Clinically in failure and s/p IV fluids w/ VT ablation study. SBPs
   borderline, limiting more aggressive diuresis. Appreciate renal and
   heart failure (Dr. [**First Name (STitle) **]
s) recs. Pt would benefit from improved
   cardiac output and consequent increased forward flow to kidneys.
   Creatinine down to 2.4 with milrinone yesterday, pt feels well
   - cont. milrinone gtt (reduced renal dose).
   - continue torsemide 40mg po bid
   - Goal negative 1L
   - hold home [**Last Name (un) **] in the setting of ARF
   - cont. carvedilol (started [**12-3**]), uptitrate as BP allows
   - digoxin discontinued
   - continue to hold spironolactone
   # RHYTHM: Currently in Afib with V-paced rhythm.  On Amio IV and
   Lidocaine initially, then transitioned to po amio and mexiletine.
   Hemodynamically stable.  TSH at 10 likely from acute illness.  Pt is
   not hyperthyroid which could contribute to VT.  s/p EP study and repeat
   VT ablation [**12-1**], s/p ICD battery change [**12-2**]
   - cont.  mexiletine and po amio, holding digoxin
   - increase metoprolol to 25mg po bid
   - keep DCCV pads on in case unstable recurrence
   - levoflox po x 7 days for ppx (day 1 = [**12-2**])
   - may restart Coumadin tonight, pending INR
   # ARF:  No evidence of ATN on UA prior from hypotensive episodes.
   Likely [**1-12**] to poor forward flow in this patient with acute on chronic
   systolic heart failure.  Urine lytes indeterminate, and patients Cr has
   risen with + fluid for LOS. Creatinine has decreased on milrinone.
   - appreciate renal recs
   - cont. milrinone today with torsemide po
   - avoid nephrotoxic meds
   - holding [**Last Name (un) **]
   # Hypertrigliceridemia:
   - cont home fibrate
   .
   # Glaucoma:
   - cont Latanoprost and Brimonidine gtts
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2132-12-5**] 11:04 AM
   20 Gauge - [**2132-12-5**] 09:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2132-12-5**] 11:04 AM
   20 Gauge - [**2132-12-5**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2132-12-08 05:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   640cc negative
   Allergies:
   Penicillins
   Rash;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Meperidine
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-12-8**] 05:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 70 (70 - 71) bpm
   BP: 90/62(69) {90/39(56) - 154/104(107)} mmHg
   RR: 21 (18 - 26) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
   Wgt (current): 68.2 kg (admission): 67.5 kg
   Height: 70 Inch
                  Total In:
                                                                  1,096 mL
                                                                    120 mL
   PO:
                                                                  1,020 mL
                                                                    120 mL
   TF:
   IVF:
                                                                     76 mL
   Blood products:
   Total out:
                                                                  1,730 mL
                                                                    400 mL
   Urine:
                                                                  1,730 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -634 mL
                                                                   -280 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   166 K/uL
   10.9 g/dL
   101 mg/dL
   2.5 mg/dL
   24 mEq/L
   4.4 mEq/L
   80 mg/dL
   105 mEq/L
   139 mEq/L
   31.7 %
   6.3 K/uL
        [image002.jpg]
                            [**2132-12-2**]  06:31 PM
                            [**2132-12-3**]  06:08 AM
                            [**2132-12-3**]  05:44 PM
                            [**2132-12-4**]  06:24 AM
                            [**2132-12-5**]  05:57 AM
                            [**2132-12-5**]  08:28 PM
                            [**2132-12-6**]  04:55 AM
                            [**2132-12-6**]  06:15 AM
                            [**2132-12-6**]  04:26 PM
                            [**2132-12-7**]  03:29 AM
   WBC
   6.9
   5.9
   6.0
   5.1
   6.3
   Hct
   34.8
   33.9
   33.6
   27.9
   31.8
   31.7
   Plt
   149
   133
   141
   132
   166
   Cr
   3.0
   3.0
   2.9
   2.8
   2.8
   2.8
   2.4
   2.5
   2.5
   Glucose
   139
   106
   133
   99
   88
   [**Telephone/Fax (3) 4655**]01
   Other labs: PT / PTT / INR:18.5/26.3/1.7, Ca++:7.9 mg/dL, Mg++:2.2
   mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 TRANSFERS, IMPAIRED
 BALANCE, IMPAIRED
 KNOWLEDGE DEFICIT
 IMPAIRED SKIN INTEGRITY
 VENTRICULAR TACHYCARDIA, SUSTAINED
 CARDIOMYOPATHY, OTHER
   82 y/o male w/ a hx of non-ischemic CM (EF 15%) s/p CRT/D, CAF s/p AV
   ablation, VT s/p ablation, p/w VT w/ multiple ICD firings.
   # CORONARIES:  The patient has no history of CAD with clean coronaries
   on cath [**2-16**].
   .
   # PUMP:  Patient with known non-ischemic cardiomyopathy with an EF of
   15%.  Patient with recent heart failure exacerbation, with described
   improvement of symptoms from increased diuresis.  Currently with JVP at
   12cm and + S3.  However, no prominent LE edema and oxygenating well.
   Likely systolic heart failure with increased venous constriction.
   Creatinine baseline unclear (none in our system since [**2-9**].5).
   Clinically in failure and s/p IV fluids w/ VT ablation study. SBPs
   borderline, limiting more aggressive diuresis. Appreciate renal and
   heart failure (Dr. [**First Name (STitle) **]
s) recs. Pt would benefit from improved
   cardiac output and consequent increased forward flow to kidneys.
   Creatinine stable at 2.5. Digoxin discontinued.
   - d/c milrinone gtt
   - continue torsemide 40mg po bid, metoprolol
   - Goal I/O negative 500 ml
   - hold home [**Last Name (un) **] in the setting of ARF
   - hold spironolactone
   - compression stockings for LE edema
   # RHYTHM: Currently in Afib with V-paced rhythm.  On amio IV and
   lidocaine initially, then transitioned to po amio and mexiletine.
   Hemodynamically stable.  TSH at 10 likely from acute illness.  Pt is
   not hyperthyroid which could contribute to VT.  s/p EP study and repeat
   VT ablation [**12-1**], s/p ICD battery change [**12-2**]
   - cont.  mexiletine and po amio, holding digoxin
   - continue metoprolol 25mg po bid; if BP stable, will consider
   switching back to carvedilol
   - keep DCCV pads on in case unstable recurrence
   - levoflox po x 7 days for ppx (day 1 = [**12-2**])
   - continue warfarin; monitor INR
   # ARF:  No evidence of ATN on UA prior from hypotensive episodes.
   Likely [**1-12**] to poor forward flow in this patient with acute on chronic
   systolic heart failure.  Urine lytes indeterminate, and patients Cr has
   risen with + fluid for LOS. Creatinine has decreased on milrinone.
   - appreciate renal recs
   - d/c milrinone; continue torsemide po
   - avoid nephrotoxic meds
   - holding [**Last Name (un) **]
   # Loose stools: no leukocytosis, no fever, no abd pain.
   - f/u C. diff toxin
   # Hypertrigliceridemia:
   - cont home fibrate
   .
   # Glaucoma:
   - cont Latanoprost and Brimonidine gtts
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2132-12-5**] 11:04 AM
   20 Gauge - [**2132-12-5**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2132-12-08 08:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - 640cc negative
   - walked with walker
   Allergies:
   Penicillins
   Rash;
   Tetracycline
   Rash;
   Sulfa (Sulfonamides)
   Rash;
   Meperidine
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-12-8**] 05:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 70 (70 - 71) bpm
   BP: 90/62(69) {90/39(56) - 154/104(107)} mmHg
   RR: 21 (18 - 26) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
   Wgt (current): 68.2 kg (admission): 67.5 kg
   Height: 70 Inch
                  Total In:
                                                                  1,096 mL
                                                                    120 mL
   PO:
                                                                  1,020 mL
                                                                    120 mL
   TF:
   IVF:
                                                                     76 mL
   Blood products:
   Total out:
                                                                  1,730 mL
                                                                    400 mL
   Urine:
                                                                  1,730 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -634 mL
                                                                   -280 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ////
   Physical Examination
   GENERAL: Affable male in NAD. Oriented x3. Mood, affect appropriate.
   Flush in the face.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of [**4-15**] cm.
   CARDIAC: PMI laterally displaced. RR with occasional PVCs, normal S1,
   with paradoxially split S2. No m/r. No thrills, lifts. ? + S3 in LLDP
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: 1+ posterior ankle edema, trace pre-tibeal edema.
   Labs / Radiology
   153 K/uL
   10.6 g/dL
   84 mg/dL
   2.6 mg/dL
   23 mEq/L
   4.4 mEq/L
   77 mg/dL
   104 mEq/L
   137 mEq/L
   31.0 %
   5.4 K/uL
        [image002.jpg]
                            [**2132-12-2**]  06:31 PM
                            [**2132-12-3**]  06:08 AM
                            [**2132-12-3**]  05:44 PM
                            [**2132-12-4**]  06:24 AM
                            [**2132-12-5**]  05:57 AM
                            [**2132-12-5**]  08:28 PM
                            [**2132-12-6**]  04:55 AM
                            [**2132-12-6**]  06:15 AM
                            [**2132-12-6**]  04:26 PM
                            [**2132-12-7**]  03:29 AM
   WBC
   6.9
   5.9
   6.0
   5.1
   6.3
   Hct
   34.8
   33.9
   33.6
   27.9
   31.8
   31.7
   Plt
   149
   133
   141
   132
   166
   Cr
   3.0
   3.0
   2.9
   2.8
   2.8
   2.8
   2.4
   2.5
   2.5
   Glucose
   139
   106
   133
   99
   88
   [**Telephone/Fax (3) 4655**]01
   Other labs: PT / PTT / INR:18.5/26.3/1.7, Ca++:7.9 mg/dL, Mg++:2.2
   mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   82 y/o male w/ a hx of non-ischemic CM (EF 15%) s/p CRT/D, CAF s/p AV
   ablation, VT s/p ablation, p/w VT w/ multiple ICD firings.
   # CORONARIES:  The patient has no history of CAD with clean coronaries
   on cath [**2-16**].
   # PUMP:  Patient with known non-ischemic cardiomyopathy with an EF of
   15%.  Patient with recent heart failure exacerbation, with described
   improvement of symptoms from increased diuresis.  Currently with JVP at
   12cm and + S3.  However, no prominent LE edema and oxygenating well.
   Likely systolic heart failure with increased venous constriction.
   Creatinine baseline unclear (none in our system since [**2-9**].5).
   Clinically in failure and s/p IV fluids w/ VT ablation study. SBPs
   borderline, limiting more aggressive diuresis. Appreciate renal and
   heart failure (Dr. [**First Name (STitle) **]
s) recs. Pt would benefit from improved
   cardiac output and consequent increased forward flow to kidneys.
   Creatinine stable at 2.5. Digoxin discontinued. Milrinone gtt d/c
ed on
   [**12-7**].
   - continue torsemide 40mg po bid, metoprolol
   - Goal I/O negative 500 ml
   - hold home [**Last Name (un) **] in the setting of ARF
   - hold spironolactone
   - compression stockings for LE edema
   # RHYTHM: Currently in Afib with V-paced rhythm.  On amio IV and
   lidocaine initially, then transitioned to po amio and mexiletine.
   Hemodynamically stable.  TSH at 10 likely from acute illness.  Pt is
   not hyperthyroid which could contribute to VT.  s/p EP study and repeat
   VT ablation [**12-1**], s/p ICD battery change [**12-2**]. Might benefit from
   atrial pacing as well in the future.
   - cont.  mexiletine and po amio, holding digoxin
   - continue metoprolol 25mg po bid; if BP stable, will consider
   switching back to carvedilol
   - keep DCCV pads on in case unstable recurrence
   - levoflox po x 7 days for ppx (day 1 = [**12-2**]); today is last day
   - continue warfarin; monitor INR
   # ARF:  No evidence of ATN on UA prior from hypotensive episodes.
   Likely [**1-12**] to poor forward flow in this patient with acute on chronic
   systolic heart failure.  Urine lytes indeterminate, and patients Cr has
   risen with + fluid for LOS. Creatinine had decreased on milrinone,
   which was d/c
ed on [**12-7**].
   - appreciate renal recs
   - continue torsemide po
   - avoid nephrotoxic meds
   - holding [**Last Name (un) **]
   # Loose stools: no leukocytosis, no fever, no abd pain.  C. diff neg x
   1 on [**12-3**].
   # Hypertrigliceridemia:
   - cont home fibrate
   # Glaucoma:
   - cont Latanoprost and Brimonidine gtts
   ICU Care
   Nutrition: cardiac healthy diet
   Glycemic Control:
   Lines:
   22 Gauge - [**2132-12-5**] 11:04 AM
   20 Gauge - [**2132-12-5**] 09:00 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: rehab screening